US09302991B2
<Step-3>:(+)-N-methyl-1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethanamine hydrochloride (single enantiomer)
tert-butyl methyl(1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)carbamate (198 mg, 0.59 mmol, Step-2, single enantiomer) is dissolved in 4M hydrochloric acid ethyl acetate solution (3 mL). The mixture is stirred at room temperature for 1.5 hours. After concentration under reduced pressure, the residue is crystallized from n-hexane to give 68 mg (42% yield) of the title compound as a white solid.

reactant | tert-butyl methyl(1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)carbamate | 0.59 mmol, 198 mg | CN(C(OC(C)(C)C)=O)C(C)C=1C=NC(=CC1)OCC(F)(F)F | C15H21F3N2O3
reactant | hydrochloric acid ethyl acetate | 4M, 3 mL | C(C)OC(C)=O.Cl
product | (+)-N-methyl-1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethanamine hydrochloride | 68 mg, 42% yield | Cl.CNC(C)C=1C=NC(=CC1)OCC(F)(F)F | InChI=1S/C10H13F3N2O.ClH/c1-7(14-2)8-3-4-9(15-5-8)16-6-10(11,12)13;/h3-5,7,14H,6H2,1-2H3;1H
